US09084794B2
a) Ethyl 2-bromo-2-(4-bromo-2-fluorophenyl)acetate
To a stirring solution of ethyl 2-(4-bromo-2-fluorophenyl)acetate (3.92 g, 15.0 mmol) in carbon tetrachloride (50 mL) was slowly added N-bromosuccinimide (2.67 g, 15.0 mmol) and then azobisisobutyronitrile (0.37 g, 2.3 mmol). The reaction mixture was stirred for 9 h at 90° C. and then cooled to room temperature. The residue was purified by flash chromatography (0-100% ethyl acetate/hexanes) to provide the title product (4.9 g, 96% yield). MS(ES)+ m/e 340.9 [M+H]+.

reactant | ethyl 2-(4-bromo-2-fluorophenyl)acetate | 15.0 mmol, 3.92 g | BrC1=CC(=C(C=C1)CC(=O)OCC)F | C10H10BrFO2
reactant | N-bromosuccinimide | 15.0 mmol, 2.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 2.3 mmol, 0.37 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 2-bromo-2-(4-bromo-2-fluorophenyl)acetate | 4.9 g, 96% yield | BrC(C(=O)OCC)C1=C(C=C(C=C1)Br)F | C10H9Br2FO2
